US07589232B2
Step a) Formation of N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)cyclohexanecarboxamide
The titled compound was prepared following the procedure J using 6-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one hydrochloride and cyclohexanecarbonyl chloride as a colorless oil (86%). 1H NMR (CDCl3, 300 MHz) δ 7.70 (d, J=2.3 Hz, 1H), 7.43 (m, 4H), 7.15 (m, 4H), 7.04 (dd, J=8.7, 2.3 Hz, 1H), 6.91 (d, J=8.7 Hz, 1H), 4.86 (s, 2H), 2.63 (t, J=7.7 Hz, 2H), 2.10 (m, 1H), 1.76 (s, 6H), 1.75-1.56 (m, 10H), 1.42-0.97 (m, 4H), 0.94 (t, J=7.4 Hz, 3H). M+ (ESI): 550.8. HPLC, Rt: 6.45 min (Purity: 100%).

reactant | 6-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one hydrochloride | Cl.C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1
reactant | cyclohexanecarbonyl chloride | C1(CCCCC1)C(=O)Cl | C7H11ClO
product | N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)cyclohexanecarboxamide | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(=O)C2CCCCC2)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C36H39NO4
